US07419997B2
N-(6-Bromo-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-4-(trifluoromethyl)benzamide was prepared from 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine and 4-trifluoromethyl benzoyl chloride in a similar manner as described above to give a tan solid (63% yield). 1H-NMR (CDCl3): δ 8.83 (s, 1H), 7.89 (d, 2H), 7.70 (d, 2H), 7.61 (m, 1H), 7.23 (d, 1H), 7.18 (d, 1H), 6.42 (d, 1H), 5.33 (m, 1H), 2.72 (m, 2H), 2.31 (m, 1H), 1.97 (m, 3H); MS m/z 437 (M−1).

reactant | 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine | BrC=1C=C2C=3CCCC(C3NC2=CC1)N | C12H13BrN2
reactant | 4-trifluoromethyl benzoyl chloride | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
product | N-(6-Bromo-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-4-(trifluoromethyl)benzamide | BrC=1C=C2C=3CCCC(C3NC2=CC1)NC(C1=CC=C(C=C1)C(F)(F)F)=O | C20H16BrF3N2O
